* Two-stage CMOS op-amp (Miller-compensated), SkyWater sky130 PDK.
* AC loop-gain testbench: Lfb blocks the DC feedback path at AC (closes the
* loop for DC biasing only), Cin injects the AC stimulus into the inverting
* input. Reading vdb(vout)/vp(vout) with this topology gives loop gain and
* loop phase directly - phase starts near 180 degrees at DC (stable negative
* feedback) and phase margin is the phase value at the frequency where the
* loop gain crosses 0 dB.
.include "pdk_corner.inc"

.subckt OPAMP2STAGE vinp vinn vout vdd vss
Xp3 pbias pbias vdd vdd sky130_fd_pr__pfet_01v8 L=0.5 W=2
Xp4 nbias pbias vdd vdd sky130_fd_pr__pfet_01v8 L=0.5 W=2
Xn1 pbias nbias vss vss sky130_fd_pr__nfet_01v8 L=0.5 W=2
Xn2 nbias nbias degn vss sky130_fd_pr__nfet_01v8 L=0.5 W=8
Rdeg degn vss 20k
Rstart vdd nbias 3Meg

X1   n1   vinn tail vdd sky130_fd_pr__pfet_01v8 L=0.5 W=8
X2   outA vinp tail vdd sky130_fd_pr__pfet_01v8 L=0.5 W=8
X3   n1   n1   vss vss sky130_fd_pr__nfet_01v8 L=0.5 W=4
X4   outA n1   vss vss sky130_fd_pr__nfet_01v8 L=0.5 W=4
X5   tail pbias vdd vdd sky130_fd_pr__pfet_01v8 L=0.5 W=15

X6   vout outA vss vss sky130_fd_pr__nfet_01v8 L=0.5 W=8
X7   vout pbias vdd vdd sky130_fd_pr__pfet_01v8 L=0.5 W=30

Xcc outA vout sky130_fd_pr__cap_mim_m3_1 w=12.05 l=12.05 mf=1
Xca outA 0    sky130_fd_pr__cap_mim_m3_1 w=6.88 l=6.88 mf=1
.ends OPAMP2STAGE

Vdd vdd 0 DC 1.8
Vss vss 0 DC 0

Vinp vinp 0 DC 0.55
Lfb vout vinn 1e6
Cin vstim vinn 1
Vstim vstim 0 DC 0 AC 1

Xdut vinp vinn vout vdd vss OPAMP2STAGE
Cload vout 0 2p
.end
